US05266728
To 194 ml (388 mmol) of a 2M solution of lithium diisopropyl amide in tetrahydrofuran-hexane, 50 ml of a solution of 38.9 g (353 mmol) of (+)-2-norbornanone in tetrahydrofuran was added dropwise at -40° C., and the mixture was stirred at -20° C. for 30 minutes. Then, 30 ml of a solution of 47.0 g (388 mmol) of allyl bromide in tetrahydrofuran was added dropwise, the mixture was stirred at -20° C. for 30 minutes, the temperature of the mixture was raised to room temperature, and the mixture was stirred for one hour. On ice cooling, the reaction mixture was poured into 300 ml of 2N hydrochloric acid, and the mixture was extracted with toluene (200 ml×4). The extract was washed with successive, saturated sodium bicarbonate solution, water, saturated sodium chloride (each 200 ml), and dried over anhydrous magnesium sulfate. The solution was filtered, and the solvent was distilled off to obtain 77.6 g of crude 3-allyl-2-norbornanone. The crude product was purified by distillation, and 42.5 g (134 mmol) of (+)-exo-3-allyl-2-norbornanone was obtained. Yield: 80%.

reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (+)-2-norbornanone | 353 mmol, 38.9 g | C12C(CC(CC1)C2)=O | C7H10O
reactant | allyl bromide | 388 mmol, 47.0 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 2N, 300 ml | Cl | ClH
solvent | tetrahydrofuran hexane | O1CCCC1.CCCCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-allyl-2-norbornanone | 77.6 g | C(C=C)C1C(C2CCC1C2)=O | C10H14O
